US05968962
Step 1: 4-Hydroxy-4-[4-[[(phenylmethoxy)carbonyl]amino]phenyl]-1-piperdinecarboxylic acid phenylmethyl ester
To a solution of N-(carbobenzyloxy)-4-bromaniline (5.00 g) in dry tetrahydrofuran (80 mL) at -78° C. under N2 is added n-butyllithium (21.4 mL, 1.6 M in hexanes) dropwise over five minutes. The resulting yellow solution is stirred at -78° C. for 30 minutes and is then treated with a solution of N-(carbobenzyloxy)-4-piperidone (3.99 g) in dry tetrahydrofuran (17 mL). The reaction mixture is stirred for three hours, during which the reaction temperature is allowed to rise to 0° C. and is quenched with saturated aqueous ammonium chloride (30 mL). The mixture is then diluted with water (100 mL), the layers are separated, the aqueous phase is extracted with diethyl ether, and the combined organic phase is washed with saline (50 mL), dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue is chromato-graphed on silica gel (230-400 mesh, 350 g), eluting with ethyl acetate/hexane (25/75), and those fractions with an Rf =0.38 by TLC (ethyl acetate/hexane, 50/50) are pooled and concentrated under reduced pressure to give the title compound, mp 156° C.-158° C.

reactant | N-(carbobenzyloxy)-4-bromaniline | 5.00 g | C(=O)(OCC1=CC=CC=C1)NC1=CC=C(C=C1)Br | C14H12BrNO2
reactant | n-butyllithium | 1.6 M, 21.4 mL | C(CCC)[Li]
reactant | N-(carbobenzyloxy)-4-piperidone | 3.99 g | C(=O)(OCC1=CC=CC=C1)N1CCC(CC1)=O | C13H15NO3
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 17 mL | O1CCCC1 | C4H8O
product | 4-Hydroxy-4-[4-[[(phenylmethoxy)carbonyl]amino]phenyl]-1-piperdinecarboxylic acid phenylmethyl ester | C1(=CC=CC=C1)COC(=O)N1CCC(CC1)(C1=CC=C(C=C1)NC(=O)OCC1=CC=CC=C1)O | C27H28N2O5
